US07141671B2
2-[4-(3-Bromopropoxy)phenyl]ethanol
To a solution of 4-hydroxyphenethyl alcohol (4.37 g, 31.0 mmol) and potassium carbonate (6.55 g, 47.0 mmol) in acetonitrile (62.0 mL) was added 1,3 dibromopropane (31.0 mL, 316 mmol). The reaction mixture was heated to 70° C. for 12 hours and then cooled to room temperature, filtered and concentrated under vacuum. The resulting oil was purified by silica gel chromatography using a mixture of 4:1 hexanes and ethyl acetate to give the title compound (6.21 g) as a white solid.

reactant | 4-hydroxyphenethyl alcohol | 31.0 mmol, 4.37 g | OC1=CC=C(CCO)C=C1 | C8H10O2
reactant | potassium carbonate | 47.0 mmol, 6.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3 dibromopropane | 316 mmol, 31.0 mL | BrCCCBr | C3H6Br2
solvent | acetonitrile | 62.0 mL | C(C)#N | C2H3N
product | 2-[4-(3-Bromopropoxy)phenyl]ethanol | 6.21 g | BrCCCOC1=CC=C(C=C1)CCO | C11H15BrO2
